US07872028B2
The HCl salt of (2R,3S)-3-amino-1-azido-4-cyclohexylbutan-2-ol (˜74 mg, 0.30 mmol) and 3,4-dimethoxycyclobut-3-ene-1,2-dione (70 mg, 0.49 mmol) were dissolved in acetonitrile (3 mL). Triethylamine (84 μL, 0.60 mmol) was added. The reaction was stirred at rt for 4 h. The solvent was evaporated and the crude material was redissolved in CH2Cl2. The solution was washed with 2% aq HCl, followed by brine, and dried over Na2SO4. The solution was filtered and the solvent removed under reduced pressure. The crude material was purified by flash chromatography on silica gel eluting with hexanes/EtOAc. 3-((2S,3R)-4-Azido-1-cyclohexyl-3-hydroxybutan-2-ylamino)-4-methoxycyclobut-3-ene-1,2-dione (63 mg) was isolated as a solid; MS m/z 323.

reactant | HCl | Cl | ClH
reactant | (2R,3S)-3-amino-1-azido-4-cyclohexylbutan-2-ol | 0.30 mmol, ˜74 mg | N[C@H]([C@@H](CN=[N+]=[N-])O)CC1CCCCC1 | C10H20N4O
reactant | 3,4-dimethoxycyclobut-3-ene-1,2-dione | 0.49 mmol, 70 mg | COC=1C(C(C1OC)=O)=O | C6H6O4
reactant | Triethylamine | 0.60 mmol, 84 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-((2S,3R)-4-Azido-1-cyclohexyl-3-hydroxybutan-2-ylamino)-4-methoxycyclobut-3-ene-1,2-dione | 63 mg | N(=[N+]=[N-])C[C@H]([C@H](CC1CCCCC1)NC=1C(C(C1OC)=O)=O)O | C15H22N4O4
